US05300282
(c) 4-Bromo-6,11-dihydrodibenz[b,e]oxepin-11-one
A suspension of 2-(2-bromophenoxymethyl)benzoic acid (18.8 g, 0.06 mole) in 100 mL of trifluoracetic anhydride containing ten drops of boron trifluoride-ether complex was refluxed for four hours. The mixture was poured into ice water and then extracted with diethyl ether. Concentration of the ether solution under reduced pressure gave the pure product (9.2 g), mp 127°-130° C. pmr (CDCl3) δ: 7.28-8.19 (m, 76H, aromatic H); 6.99 (t, 1H, H2); 5.30 (s, 2H, ArCH2O).

reactant | 2-(2-bromophenoxymethyl)benzoic acid | 0.06 mole, 18.8 g | BrC1=C(OCC2=C(C(=O)O)C=CC=C2)C=CC=C1 | C14H11BrO3
catalyst | trifluoracetic anhydride | 100 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-Bromo-6,11-dihydrodibenz[b,e]oxepin-11-one | 9.2 g | BrC1=CC=CC2=C1OCC1=C(C2=O)C=CC=C1 | C14H9BrO2
